US07589105B2
2-Methyl-N,N′-bis(3-hydroxy-5-trifluoromethylphenyl)-pyrimidine-4,6-diamine (Exemplified Compound No.1-90)
This compound was obtained (yield 43%) based on the method described in Production Example 2B using 4,6-dichloro-2-methylpyrimidine instead of the 4,6-dichloro-2-ethylpyrimidine, and using 3-amino-5-trifluoromethyl-phenol instead of the 3-aminophenol.

reactant | 4,6-dichloro-2-methylpyrimidine | ClC1=NC(=NC(=C1)Cl)C | C5H4Cl2N2
reactant | 3-amino-5-trifluoromethyl-phenol | NC=1C=C(C=C(C1)C(F)(F)F)O | C7H6F3NO
product | 2-Methyl-N,N′-bis(3-hydroxy-5-trifluoromethylphenyl)-pyrimidine-4,6-diamine | yield 43% | CC1=NC(=CC(=N1)NC1=CC(=CC(=C1)C(F)(F)F)O)NC1=CC(=CC(=C1)C(F)(F)F)O | C19H14F6N4O2
